US04999381
Preparation of 2-methoxy-4-(2',2'-dimethylpropionamido)-N,N-dimethylbenzamide.
2-Methoxy-4-(2',2'-dimethylpropionamido)-benzoyl chloride (1.12 g) in dry THF (10 ml) was added dropwise over 30 minutes to a stirred solution of dimethylamine (1.17 g of a 40% aqueous solution) in THF (15 ml) at 0°-5° C. After completion of the addition the solution was stirred for 1 hour at 5°-10° C., stood at room temperature overnight, poured into water, and extracted with ethyl acetate. The extract was dried and evaporated to give the product as a yellow solid (0.889 g), m.p. 143°-144° C.

reactant | 2-Methoxy-4-(2',2'-dimethylpropionamido)-benzoyl chloride | 1.12 g | COC1=C(C(=O)Cl)C=CC(=C1)NC(C(C)(C)C)=O | C13H16ClNO3
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-methoxy-4-(2',2'-dimethylpropionamido)-N,N-dimethylbenzamide | 0.889 g | COC1=C(C(=O)N(C)C)C=CC(=C1)NC(C(C)(C)C)=O | C15H22N2O3
